*Common Source Circuit
.lib "../../Models/libs.tech/Xyce/sky130.lib.spice" tt
X1 d g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=1
R1 d vdd 1000

V1 g 0 1
VDD vdd 0 1.8


.DC v1 0 1.8 0.1
.print DC {-i(vdd)}

.end

